US07259171B2
E) N-[(2,6-Difluoro-phenyl)-(toluene-4-sulfonyl)-methyl]-formamide
To 2,6-difluorobenzaldehyde (1.42 g, 10.0 mmol) is added toluene (5.0 mL), acetonitrile (5.0 mL), formamide (0.993 mL, 25.0 mmol) and chlorotrimethylsilane (1.40 mL, 11.0 mmol) in order. The cloudy mixture is heated to 50° C. and stirred at this temperature for 7 hours. p-Toluenesulfinic acid (2.19 g, 14.0 mmol) is added, and the mixture stirred at 50° C. for 6 hours, then for 3 hours at room temperature. MTBE (18.0 mL) and water (17.0 mL) are added, and the mixture stirred at room temperature for 15 minutes. The layers are separated, and the aqueous layer extracted with MTBE (5.0 mL). Most of the solvents are removed from the combined organic extracts leaving a white semi-solid. To the residual is added hexane (10.0 mL) and water (10.0 mL), and the resulting slurry stirred at room temperature for 30 minutes, then filtered. The cake is washed with hexane (2×) and dried in a vacuum-oven (30° C.) for 18 hours. The title compound may be obtained as a white powder (2.58 g, 79%).

reactant | 2,6-difluorobenzaldehyde | 10.0 mmol, 1.42 g | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | formamide | 25.0 mmol, 0.993 mL | C(=O)N | CH3NO
reactant | chlorotrimethylsilane | 11.0 mmol, 1.40 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | p-Toluenesulfinic acid | 14.0 mmol, 2.19 g | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
solvent | water | 10.0 mL | O | H2O
solvent | hexane | 10.0 mL | CCCCCC | C6H14
solvent | water | 17.0 mL | O | H2O
solvent | MTBE | 18.0 mL | CC(C)(C)OC | C5H12O
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(2,6-Difluoro-phenyl)-(toluene-4-sulfonyl)-methyl]-formamide | FC1=C(C(=CC=C1)F)C(NC=O)S(=O)(=O)C1=CC=C(C=C1)C | C15H13F2NO3S
